US04434182
C. Preparation of (E)-(4-chlorophenyl)(cyclopropyl)methanone O-[(2-methyl[1,1'-biphenyl]-3-yl)methyl]oxime
In a manner similar to General Procedure F of European Patent Publication No. 4,754, published Oct. 17, 1979, 1.96 g (0.01 mole) of (E)-(4-chlorophenyl)(cyclopropyl)methanone oxime was treated with 0.23 g (0.01 mole) of sodium ethoxide in 10 ml of ethanol, and the mixture was evaporated to dryness. The residue was dissolved in a minimum amount of solvent consisting of N,N-dimethylformamide and t-butanol (9:1 ratio) and treated with 2.16 g (0.01 mole) of 3-chloromethyl-2-methyl[1,1'-biphenyl] to yield, after purification by column chromatography, 0.83 g of (E)-(4-chlorophenyl)(cyclopropyl)methanone O-[(2-methyl[1,1'-biphenyl]-3-yl)methyl]oxime as an oil.

reactant | (E)-(4-chlorophenyl)(cyclopropyl)methanone oxime | 0.01 mole, 1.96 g | ClC1=CC=C(C=C1)/C(=N/O)/C1CC1 | C10H10ClNO
reactant | sodium ethoxide | 0.01 mole, 0.23 g | [O-]CC.[Na+]
reactant | 3-chloromethyl-2-methyl[1,1'-biphenyl] | 0.01 mole, 2.16 g | ClCC=1C(=C(C=CC1)C1=CC=CC=C1)C | C14H13Cl
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (E)-(4-chlorophenyl)(cyclopropyl)methanone O-[(2-methyl[1,1'-biphenyl]-3-yl)methyl]oxime | CC1=C(C=CC=C1CO\N=C(/C1CC1)\C1=CC=C(C=C1)Cl)C1=CC=CC=C1 | C24H22ClNO
